US04582833
A mixture of 56.0 g (0.2 moles) of 2-bromoethyl p-bromophenyl ether and 45.6 g (0.4 moles) of 1-formylpiperazine in 500 ml of 2-propanol was heated at reflux for 18 hours. The mixture was cooled and filtered. The filter was washed with 2-propanol and the filtrate was evaporated to an oil in vacuo. Water was added and the oil was extracted three times with about 200 ml of chloroform. The extracts were combined, dried over magnesium sulfate and filtered. The filtrate was evaporated to an oil to which 250 ml of 5N sodium hydroxide was added. The mixture was refluxed for 18 hours, cooled and extracted three times with about 200 ml of chloroform. The extracts were combined, dried over magnesium sulfate and evaporated to an oil. The oil was distilled, bp 125°-128° C./0.05 mm of mercury, and gave 40 g of 1-[2-(4-bromophenoxy)ethyl]-piperazine as a yellowing oil.

reactant | 2-bromoethyl p-bromophenyl ether | 0.2 moles, 56.0 g | BrC1=CC=C(C=C1)OCCBr | C8H8Br2O
reactant | 1-formylpiperazine | 0.4 moles, 45.6 g | C(=O)N1CCNCC1 | C5H10N2O
solvent | 2-propanol | 500 ml | CC(C)O | C3H8O
product | 1-[2-(4-bromophenoxy)ethyl]-piperazine | 40 g | BrC1=CC=C(OCCN2CCNCC2)C=C1 | C12H17BrN2O
